### PR TITLE
[Merged by Bors] - feat(CategoryTheory): Improve the infrastructure around the `liftToFinset` construction

### PR DESCRIPTION
**Pull request by javra**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Limits/Constructions/Filtered.lean [hunk 1]
```diff
@@ -32,10 +32,12 @@ namespace CategoryTheory.Limits
...
 namespace CoproductsFromFiniteFiltered
 
+variable [HasFiniteCoproducts C]
+
 /-- If `C` has finite coproducts, a functor `Discrete α ⥤ C` lifts to a functor
     `Finset (Discrete α) ⥤ C` by taking coproducts. -/
 @[simps!]
-def liftToFinset [HasFiniteCoproducts C] (F : Discrete α ⥤ C) : Finset (Discrete α) ⥤ C where
+def liftToFinset.obj (F : Discrete α ⥤ C) : Finset (Discrete α) ⥤ C where
   obj s := ∐ fun x : s => F.obj x
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Limits/Constructions/Filtered.lean:41]:
```suggestion
def liftToFinsetObj (F : Discrete α ⥤ C) : Finset (Discrete α) ⥤ C where
  obj s := ∐ fun x : s => F.obj x
```

File: Mathlib/CategoryTheory/Limits/Constructions/Filtered.lean [hunk 2]
```diff
@@ -91,4 +102,34 @@ theorem has_limits_of_finite_and_cofiltered [HasFiniteLimits C]
...
+namespace CoproductsFromFiniteFiltered
+
+variable [HasFiniteCoproducts C] [HasFilteredColimitsOfSize.{w, w} C]
+
+attribute [local instance] hasCoproducts_of_finite_and_filtered
+
+/-- Helper construction for `liftToFinsetColimIso`. -/
+@[reassoc]
+theorem liftToFinsetColimIsoAux (F : Discrete α ⥤ C) {J : Finset (Discrete α)} (j : J) :
+    Sigma.ι (F.obj ·.val) j ≫ colimit.ι (liftToFinset.obj F) J ≫
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Limits/Constructions/Filtered.lean:114]:
```suggestion
theorem liftToFinsetColimIso_aux (F : Discrete α ⥤ C) {J : Finset (Discrete α)} (j : J) :
    Sigma.ι (F.obj ·.val) j ≫ colimit.ι (liftToFinset.obj F) J ≫
```

File: Mathlib/CategoryTheory/Limits/Constructions/Filtered.lean [hunk 3]
```diff
@@ -91,4 +102,34 @@ theorem has_limits_of_finite_and_cofiltered [HasFiniteLimits C]
...
+  simp [liftToFinsetColimitCocone, Discrete.natTrans, liftToFinset.obj,
+    colimit.isoColimitCocone, IsColimit.coconePointUniqueUpToIso]
+
+/-- The `liftToFinset` functor, precomposed with forming a colimit, is a coproduct on the original
+functor. -/
+def liftToFinsetColimIso : liftToFinset C α ⋙ colim ≅ colim :=
+  NatIso.ofComponents
+    (fun F => Iso.symm <| colimit.isoColimitCocone (liftToFinsetColimitCocone F))
+    (fun {F G} β => by
+      simp only [Functor.comp_obj, colim_obj, Functor.comp_map, colim_map, Iso.symm_hom]
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Limits/Constructions/Filtered.lean:126]:
```suggestion
    (fun β => by
      simp only [Functor.comp_obj, colim_obj, Functor.comp_map, colim_map, Iso.symm_hom]
```

**Review by dagurtomas — APPROVED** [review]

File: Mathlib/CategoryTheory/Limits/Constructions/Filtered.lean [hunk 4]
```diff
@@ -32,10 +32,12 @@ namespace CategoryTheory.Limits
 
 namespace CoproductsFromFiniteFiltered
 
+variable [HasFiniteCoproducts C]
+
 /-- If `C` has finite coproducts, a functor `Discrete α ⥤ C` lifts to a functor
     `Finset (Discrete α) ⥤ C` by taking coproducts. -/
 @[simps!]
-def liftToFinset [HasFiniteCoproducts C] (F : Discrete α ⥤ C) : Finset (Discrete α) ⥤ C where
+def liftToFinsetObj (F : Discrete α ⥤ C) : Finset (Discrete α) ⥤ C where
```
Comment (b-mehta) [inline Mathlib/CategoryTheory/Limits/Constructions/Filtered.lean:40]: This is perhaps orthogonal to this PR, but it seems to me that we should instead have `liftToMultiset` and compose with the forgetful functor Multiset => Finset where required. The constructions here should all go through for multisets...

Comment (javra) [reply Mathlib/CategoryTheory/Limits/Constructions/Filtered.lean:40]: Hmm.. multisets aren't used at all in the category theory library so far, which might or not be because we want swaps of two elements in the diagram to induce an isomorphism and not an equality between the (co)products.

Taking `Fin n` as the  the diagram category does have that effect via `CategoryTheory.Limits.Sigma.reindex`, but taking `Multiset` would destroy it.

Comment (b-mehta) [reply Mathlib/CategoryTheory/Limits/Constructions/Filtered.lean:40]: I'm not quite sure I follow. Finsets are just multisets without duplicates (in a literal sense), they should have identical behaviour when it comes to swaps. 

The difference arises if you take a product over something like {X, X}, in which the finset version would give (something isomorphic to) X, whereas the multiset version would give X * X.

Comment (javra) [reply Mathlib/CategoryTheory/Limits/Constructions/Filtered.lean:40]: (Note that `sigmaObj` takes an arbitary family, which, if indexed over `Nat` is also behaving like a `List` and not `Multiset`)

Comment (b-mehta) [reply Mathlib/CategoryTheory/Limits/Constructions/Filtered.lean:40]: Right, this is why I think `Multiset` is a more sensible choice! It lives exactly between `List` and `Finset`, and the observation that this construction is going from List to Finset is an argument that it could be generalised to instead go from List to Multiset, and later to Finset

Comment (javra) [reply Mathlib/CategoryTheory/Limits/Constructions/Filtered.lean:40]: Got it, I think you're right. Might be a good refinement for a later PR...

Comment (b-mehta) [reply Mathlib/CategoryTheory/Limits/Constructions/Filtered.lean:40]: Yes, admittedly this PR was the wrong place to bring up this discussion!

**Comment by dagurtomas** [comment]
Sorry for the delay!

maintainer merge

**Review by dagurtomas — APPROVED** [review]

**Review by TwoFX — APPROVED** [review]
Thanks!
bors r+
